US07247625B2
To a stirred solution of 4,4-diethyl-6-hydroxy-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one (0.30 g, 1.28 mmol) and 3-chloro-4-fluorophenylboronic acid (0.67 g, 3.83 mmol) in methylene chloride (15 mL) was added triethylamine (0.6 mL, 4.3 mmol) and copper (II) acetate (0.46 g, 2.56 mmol). The reaction mixture was stirred at room temperature for 6 days and partitioned between ammonium chloride solution (sat.) and methylene chloride. The organic layer was washed with 1N sodium hydroxide solution, dried over magnesium sulfate and concentrated to give 6-(3-chloro-4-fluorophenoxy)-4,4-diethyl-1-methyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one as a yellow oil (0.04 g, 9%). 1H NMR (DMSO-d6): δ 7.45 (t, J=9.1 Hz, 1H), 7.21 (dd, J=6.2, 3.0 Hz, 1H), 7.13 (d, J=8.7 Hz, 1H), 7.08 (m, 2H), 6.99 (m, 1H), 3.29 (s, 3H), 2.01 (m, 2H), 1.88 (m, 2H), 0.79 (t, J=7.3 Hz, 6H). MS (ESI) m/z 364/366 ([M+H]+); HRMS: calcd for C19H19ClFNO3, 363.1037. found (ESI+), 364.1106.

reactant | 4,4-diethyl-6-hydroxy-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | 1.28 mmol, 0.30 g | C(C)C1(OC(N(C2=C1C=C(C=C2)O)C)=O)CC | C13H17NO3
reactant | 3-chloro-4-fluorophenylboronic acid | 3.83 mmol, 0.67 g | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | triethylamine | 4.3 mmol, 0.6 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 2.56 mmol, 0.46 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 6-(3-chloro-4-fluorophenoxy)-4,4-diethyl-1-methyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | 0.04 g, 9% | ClC=1C=C(OC2=CC3=C(N(C(OC3(CC)CC)=O)C)C=C2)C=CC1F | C19H19ClFNO3
